US07135242B2
Synthesis of Bisfluorenyldimethylsilane
Under a nitrogen gas atmosphere, 5.00 g (9.11 mmol) of 2,7-dibromo-9,9-dioctylfluorene, 20 ml of diethyl ether and 10 ml of toluene were added to a 100 ml three-necked flask equipped with a reflux condenser and a dropping funnel. Under cooling by an ice bath, 6.2 ml (9.92 mmol) of a hexane solution of n-butyllithium (1.6 M) was added dropwise. As the butyllithium was added, the solution turned red. This solution was agitated “as is” for approximately 1 hour; then, 520 mg (4.33 mmol) of dimethoxydimethylsilane was added, and the resulting mixture was agitated and reacted all night.

reactant | 2,7-dibromo-9,9-dioctylfluorene | 9.11 mmol, 5.00 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCC)CCCCCCCC | C29H40Br2
reactant | hexane | 9.92 mmol, 6.2 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | dimethoxydimethylsilane | 4.33 mmol, 520 mg | CO[Si](C)(C)OC | C4H12O2Si
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Bisfluorenyldimethylsilane | C1(=CC=CC=2C3=CC=CC=C3CC12)[Si](C)(C)C1=CC=CC=2C3=CC=CC=C3CC12 | C28H24Si
